US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(2-methoxyethyl)pyrrolidin-3-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (50 mg, 0.122 mmol) in 2 mL of DMF, triethylamine is added (34 uL, 0.244 mmol) followed by 1-bromo-2-methoxyethane (36 uL, 0.256 mmol). A spatula tip of potassium iodide was added and the reaction heated at 60° C. for 48 hours. The reaction was cooled and then partitioned between EtOAc (50 mL) and water (25 mL). The organic layer was washed with water (5×15 mL) to remove DMF. The EtOAc layer was the dried with Na2SO4 and then concentrated to yield an off-white solid. The solid was recrystallized from EtOAc-hexanes to yield 11 mg (19%) of title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.53 (s, 1 H), 7.88 (s, 1 H), 7.80 (d 1 H), 7.58 (s, 1 H), 7.35 (m, 5 H), 7.15 (d, 1 H), 6.66 (s, 1 H), 5.64 (s, 2 H), 3.80 (m, 2H), 3.45 (t, 2H), 3.30-3.05 (m, 6 H), 2.70-2.50 (m, 2 H), 2.25 (m, 1 H), 1.97 (m, 1H); ES-MS m/z 468.2 [M+H]+, HPLC RT (min) 2.17.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.122 mmol, 50 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCC2 | C24H23N7
reactant | 1-bromo-2-methoxyethane | 0.256 mmol, 36 uL | BrCCOC | C3H7BrO
reactant | potassium iodide | [I-].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(2-methoxyethyl)pyrrolidin-3-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 11 mg, 19% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CC2)CCOC | C27H29N7O
